US09065058B2
Step 2: Synthesis of 3-(Dibenzothiophen-4-yl)-9-[4-(9,10-diphenyl-2-anthryl)phenyl]-9H-carbazole (abbreviation: 2DBTCzPPA-II)
In a 50-mL three-neck flask were put 1.3 g (2.7 mmol) of 2-(4-bromophenyl)-9,10-diphenylanthracene, 0.93 g (2.7 mmol) of 3-(dibenzothiophen-4-yl)-9H-carbazole, and 0.76 g (8.0 mmol) of sodium tert-butoxide. After the air in the flask was replaced with nitrogen, to this mixture were added 20 mL of toluene and 0.2 mL of tri(tert-butyl)phosphine (a 10 wt % hexane solution). This mixture was degassed by being stirred while the pressure was reduced. After the degassing, 76 mg (0.13 mmol) of bis(dibenzylideneacetone)palladium(0) was added to this mixture. This mixture was stirred at 110° C. for 4 hours under a nitrogen stream. After the stirring, the obtained mixture was suction-filtered through Celite (produced by Wako Pure Chemical Industries, Ltd., Catalog No. 531-16855), alumina, and Florisil (produced by Wako Pure Chemical Industries, Ltd., Catalog No. 540-00135), and the filtrate was concentrated to give a solid. The obtained solid was purified by silica gel column chromatography (a developing solvent in which the hexane/toluene ratio was 5:1). A suspension was formed by addition of toluene/hexane to the obtained solid, and the suspension was irradiated with ultrasonic wave. Then, a solid was collected by suction filtration, so that 1.2 g of a yellow solid which was the object of the synthesis was obtained in a yield of 61%. The synthesis scheme of Step 2 is illustrated in (b-14).

reactant | 2-(4-bromophenyl)-9,10-diphenylanthracene | 2.7 mmol, 1.3 g | BrC1=CC=C(C=C1)C1=CC2=C(C3=CC=CC=C3C(=C2C=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C32H21Br
reactant | 3-(dibenzothiophen-4-yl)-9H-carbazole | 2.7 mmol, 0.93 g | C1=CC=C(C=2SC3=C(C21)C=CC=C3)C=3C=CC=2NC1=CC=CC=C1C2C3 | C24H15NS
reactant | sodium tert-butoxide | 8.0 mmol, 0.76 g | CC(C)([O-])C.[Na+]
reactant | tri(tert-butyl)phosphine | 0.2 mL | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
catalyst | bis(dibenzylideneacetone)palladium(0) | 0.13 mmol, 76 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
solvent | hexane | CCCCCC | C6H14
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | 3-(Dibenzothiophen-4-yl)-9-[4-(9,10-diphenyl-2-anthryl)phenyl]-9H-carbazole | yield of 61% | C1=CC=C(C=2SC3=C(C21)C=CC=C3)C=3C=CC=2N(C1=CC=CC=C1C2C3)C3=CC=C(C=C3)C3=CC2=C(C1=CC=CC=C1C(=C2C=C3)C3=CC=CC=C3)C3=CC=CC=C3 | C56H35NS
